US06743939B2
a) α-(3-Chloropropyl)benzenemethanol
A mixture of 4-chloro-1-phenyl-1-butanone (7.35 g) and sodium tetrahydroborate (3.05 g) in tetrahydrofuran (40 ml) was stirred for 36 h. 2M Hydrochloric acid was added and the mixture was extracted three times with ethyl acetate. The combined organic extracts were dried (magnesium sulphate), evaporated and purified by chromatography on silica eluting with petrol-ether to give the sub-title compound as a colourless oil (6.60 g).

reactant | 4-chloro-1-phenyl-1-butanone | 7.35 g | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | sodium tetrahydroborate | 3.05 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | α-(3-Chloropropyl)benzenemethanol | 6.60 g | ClCCCC(O)C1=CC=CC=C1 | C10H13ClO
